US04713457
2-Isopropyl-1-(6-methylergolin-8β-ylmethyl)imidazole
0.9 g of 50% sodium hydride in an oil was added to a mixture of 4.0 g of 2-isopropylimidazole and 40 ml of dimethylformamide, and the mixture was stirred for 30 minutes. 2.0 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 2 hours. The solvent was distilled off under reduced pressure, and water was added to the residue. The precipitated crystals were filtered, washed with water and purified by silica gel column chromatography (eluted with acetone). The crystals thus obtained were dissolved in methanol, and isopropyl alcohol was added thereto. The mixture was concentrated and allowed to cool to obtain 0.6 g of the titled compound as colorless needles having a melting point of 283°-288° C. (with decomposition).

reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | 2-isopropylimidazole | 4.0 g | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | 6-methylergolin-8β-ylmethyl tosylate | 2.0 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
solvent | methanol | CO | CH4O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-Isopropyl-1-(6-methylergolin-8β-ylmethyl)imidazole | 0.6 g | C(C)(C)C=1N(C=CN1)C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C22H28N4
